US07678803B2
A suspension of 2,4-difluorobenzonitrile (1 g, 7.17 mmol), formamidine acetate (2.98 g, 28.68 mmol), and NaH (60% suspension in mineral oil, 2.29 g, 57.36 mmol) in dimethylacetamide (50 mL) is stirred at 120° C. for overnight. The reaction mixture is poured onto a saturated solution of NaHCO3 (100 mL), and the aqueous phase is extracted with EtOAc (3×). The combined organic layers is washed with brine, dried over MgSO4, and evaporated to dryness. Purification of the crude material by column chromatography (10% MeOH in CH2Cl2) affords 7-Fluoro-quinazolin-4-ylamine (0.2874 g, 25%). LC/MS m/z=164 [M+H]+.

reactant | 2,4-difluorobenzonitrile | 7.17 mmol, 1 g | FC1=C(C#N)C=CC(=C1)F | C7H3F2N
reactant | formamidine acetate | 28.68 mmol, 2.98 g | C(C)(=O)O.C(=N)N
reactant | NaH | 57.36 mmol, 2.29 g | [H-].[Na+]
reactant | NaHCO3 | 100 mL | C(=O)(O)[O-].[Na+]
reactant | dimethylacetamide | 50 mL | CC(=O)N(C)C | C4H9NO
product | 7-Fluoro-quinazolin-4-ylamine | 0.2874 g, 25% | FC1=CC=C2C(=NC=NC2=C1)N | C8H6FN3
